US07842688B2
e) tert-Butyl 3-hydroxy-4-(4-methoxycarbonylphenyl)piperidine-1-carboxylate
An autoclave is initially charged under argon with 58 ml of N,N-dimethylformamide, 42 ml of methanol, 0.347 g of diphenylphosphinopropane and 0.189 g of palladium(II) acetate. The reaction mixture is stirred at room temperature over 20 minutes. Subsequently, 7.73 g of tert-butyl 3-hydroxy-4-(4-trifluoromethanesulphonyloxyphenyl)piperidine-1-carboxylate and 3.75 g of triethylamine are added and the autoclave is charged with 5 bar of carbon monoxide. The reaction mixture is subsequently stirred at 70° and 5 bar of pressure over 3 hours. Subsequently, the reaction mixture is cooled and a solution of palladium(II) acetate (0.095 g) and diphenylphosphinopropane (0.175 g) in 29 ml of N,N-dimethylformamide and 21 ml of methanol is added. The reaction mixture is subsequently stirred at 70° and 5 bar of carbon monoxide for a further 3 hours. The reaction solution is cooled and stirred with 200 ml of water and 250 ml of tert-butyl methyl ether. The phases are separated and the aqueous phase is extracted once more with 250 ml of tert-butyl methyl ether. The organic phases are combined and concentrated by evaporation to dryness. The title compound is obtained as a colourless solid from the residue by means of flash chromatography (SiO2 60F). Rf=0.20 (1:1 EtOAc-heptane); Rt=4.15.

reactant | diphenylphosphinopropane | 0.347 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)CCC | C15H17P
reactant | tert-butyl 3-hydroxy-4-(4-trifluoromethanesulphonyloxyphenyl)piperidine-1-carboxylate | 7.73 g | OC1CN(CCC1C1=CC=C(C=C1)OS(=O)(=O)C(F)(F)F)C(=O)OC(C)(C)C | C17H22F3NO6S
reactant | triethylamine | 3.75 g | C(C)N(CC)CC | C6H15N
reactant | carbon monoxide | [C]=O | CO
reactant | diphenylphosphinopropane | 0.175 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)CCC | C15H17P
solvent | N,N-dimethylformamide | 29 ml | CN(C=O)C | C3H7NO
solvent | methanol | 21 ml | CO | CH4O
catalyst | palladium(II) acetate | 0.189 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | palladium(II) acetate | 0.095 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | methanol | 42 ml | CO | CH4O
solvent | N,N-dimethylformamide | 58 ml | CN(C=O)C | C3H7NO
solvent | tert-butyl methyl ether | 250 ml | COC(C)(C)C | C5H12O
solvent | water | 200 ml | O | H2O
product | tert-Butyl 3-hydroxy-4-(4-methoxycarbonylphenyl)piperidine-1-carboxylate | OC1CN(CCC1C1=CC=C(C=C1)C(=O)OC)C(=O)OC(C)(C)C | C18H25NO5
